US05496843
5) Methyl 5-tert-butoxycarbonylaminomethyl-2-nitrophenylacetate
To a solution of methyl 5-aminomethyl-2-nitrophenylacetate hydrochloride (6.80 g, 26.1 mmol) and triethylamine (12 mL) in dichloromethane (100 mL) was added di-tert-butyl dicarbonate (9 mL, 39.2 mmol) at room temperature. The mixture was stirred for 1.5 h and diluted with ethyl acetate. The mixture was washed successively with 5% potassium hydrogen sulfate, water, saturated aqueous sodium bicarbonate, and brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 6:1 to 2:1 hexane/ethyl acetate to give 8.55 g of the title compound (quant): 1H NMR (CDCl3) δ8.11 (d, 1H, J=8.3 Hz), 7.38 (d, 1H, J=8.3 Hz), 7.25 (s, 1H), 4.98 (br, 1H), 4.39 (d, 2H, J=6.3 Hz), 4.02 (s,2H), 1.49 (s, 9H).

reactant | methyl 5-aminomethyl-2-nitrophenylacetate hydrochloride | 26.1 mmol, 6.80 g | Cl.NCC=1C=CC(=C(C1)CC(=O)OC)[N+](=O)[O-]
reactant | triethylamine | 12 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 39.2 mmol, 9 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 5-tert-butoxycarbonylaminomethyl-2-nitrophenylacetate | 8.55 g | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C1)CC(=O)OC)[N+](=O)[O-] | C15H20N2O6
